US07585880B2
ethyl 3-[2-fluoro-4-({4-[(propyl{4-[4-(trifluoromethyl)phenyl]-1,3-thiazol-2-yl}amino)methyl]benzyl}oxy)phenyl]propanoate
To a solution of N-propyl-4-[4-(trifluoromethyl)phenyl]-1,3-thiazole-2-amine (700 mg, 2.44 mmol) in N,N-dimethylformamide (5 mL) was added sodium hydride (100 mg, in oil, 2.5 mmol) at room temperature and the mixture was stirred at room temperature for 1 hr. Ethyl 3-(4-{[4-(chloromethyl)benzyl]oxy}-2-fluorophenyl)propanoate (700 mg, 2.0 mmol) was added and the mixture was further stirred at room temperature for 2 hr. The reaction mixture was poured into 1N hydrochloric acid and the mixture was extracted with ethyl acetate. The organic layer was concentrated and the residue was purified by preparative HPLC. The obtained fraction was concentrated, neutralized with 10% aqueous sodium hydrogencarbonate solution, and extracted with ethyl acetate. The ethyl acetate layer was filtered with a Presep Dehydration tube (Wako Pure Chemical Industries, Ltd.) and concentrated to give the title compound as a yellow oil.

reactant | N-propyl-4-[4-(trifluoromethyl)phenyl]-1,3-thiazole-2-amine | 2.44 mmol, 700 mg | C(CC)NC=1SC=C(N1)C1=CC=C(C=C1)C(F)(F)F | C13H13F3N2S
reactant | sodium hydride | 2.5 mmol, 100 mg | [H-].[Na+]
reactant | Ethyl 3-(4-{[4-(chloromethyl)benzyl]oxy}-2-fluorophenyl)propanoate | 2.0 mmol, 700 mg | ClCC1=CC=C(COC2=CC(=C(C=C2)CCC(=O)OCC)F)C=C1 | C19H20ClFO3
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | N,N-dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
product | ethyl 3-[2-fluoro-4-({4-[(propyl{4-[4-(trifluoromethyl)phenyl]-1,3-thiazol-2-yl}amino)methyl]benzyl}oxy)phenyl]propanoate | FC1=C(C=CC(=C1)OCC1=CC=C(C=C1)CN(C=1SC=C(N1)C1=CC=C(C=C1)C(F)(F)F)CCC)CCC(=O)OCC | C32H32F4N2O3S
